US09169270B2
(±)-4-(2-Carboxymethoxy-5-fluoro-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (C22H19N2O5FS, MW=442.10)
Trifluoroacetic acid (8.2 mL) was added to a solution of (±)-4-(2-ethoxycarbonylmethoxy-5-fluoro-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester (237 mg, 0.52 mmol, 1.0 eq.) in DCM (12 mL). The resulting mixture was stirred at r.t. for 5 hours. The solvent was removed in vacuo. To an-ice cooled suspension of the residue and triethylamine (0.11 mL, 0.79 mmol, 1.5 eq.) in DCM (5 mL), benzyl chloroformate (79 μL, 0.52 mmol, 1.0 eq.) was added dropwise. Upon completion of the addition, the cooling bath was removed and the suspension was stirred at r.t. for 18 hours. Triethylamine (0.11 mL, 0.79 mmol, 1.5 eq.) and benzyl chloroformate (39 μL, 0.26 mmol, 0.5 eq.) were added again. The mixture was stirred at r.t. for 18 hours. The reaction was quenched with 1M aq. citric acid soln. (12 mL). The layers were separated. The aq. phase was extracted with DCM (3×6 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. To a solution of the crude ester in THF (2.3 mL), 1M aq. NaOH soln. (0.7 mL) was added. The solution was stirred at r.t. for 18 hours. The solution was diluted with water (2 mL), 1M aq. HCl soln. (0.7 mL), and DCM. The layers were separated and the aq. phase was extracted with DCM (2×). The comb. org. phases were concentrated in vacuo. The residue was dissolved in DMF (1.2 mL), purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions), and concentrated in vacuo to give the title compound as a pale yellow foam.

reactant | Trifluoroacetic acid | 8.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (±)-4-(2-ethoxycarbonylmethoxy-5-fluoro-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 0.52 mmol, 237 mg, 1.0 eq. | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N=CS2)C2=C(C=CC(=C2)F)OCC(=O)OCC | C21H25FN2O5S
reactant | triethylamine | 0.79 mmol, 0.11 mL, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.52 mmol, 79 μL, 1.0 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Triethylamine | 0.79 mmol, 0.11 mL, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.26 mmol, 39 μL, 0.5 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-4-(2-Carboxymethoxy-5-fluoro-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=CS2)C2=C(C=CC(=C2)F)OCC(=O)O | C22H19FN2O5S
